US20010001799A1
305 mg of ethyl (Z)-(RS)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetate were treated in 8 ml of methanol-acetic acid (1:1) with Raney-nickel and stirred under hydrogen. The reaction mixture was filtered, evaporated in a vacuum and, for purification, the residue was triturated in acetonitrile. There were obtained 265 mg of methyl (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxyphenyl)-acetate; m.p. 200° C. (dec.), MS: 401 (M+H)+.

reactant | ethyl (Z)-(RS)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetate | 305 mg | C(N)(=O)COC1=C(C=C(C=C1)OCC)C(C(=O)OCC)NC1=CC=C(C=C1)/C(/NO)=N/[H] | C21H26N4O6
solvent | methanol acetic acid | 8 ml | CO.C(C)(=O)O
catalyst | Raney-nickel | [Ni] | Ni
product | methyl (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxyphenyl)-acetate | 265 mg | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)OC)C1=C(C=CC(=C1)OCC)OCC(N)=O | C20H24N4O5
